US08114886B2
5-[(1-Benzofuran-6-ylsulfonyl)(2,3,6-trifluorophenyl)methyl]-N-(hydroxymethyl)-4-methylpyridine-2-carboxamide
To a 1,2-dimethoxyethane solution (5 ml) of 5-[(1-benzofuran-6-ylsulfonyl)(2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide (210 mg, 0.457 mmol), an aqueous solution of formaldehyde (37%, 0.111 ml) and 1 N aqueous sodium hydroxide (0.023 ml) were added, and the mixture was stirred for 4 hours at room temperature. An aqueous solution of formaldehyde (37%, 0.111 ml) and 1 N aqueous sodium hydroxide (0.023 ml) were added to the reaction mixture, and the mixture was stirred for 5 hours at room temperature. An aqueous solution of formaldehyde (37%, 0.111 ml) was further added, and then the mixture was stirred for 18 hours at room temperature. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate, and then was washed with water and saturated brine. The mixture was dried over magnesium sulfate and concentrated, and the resulting residue was subjected to flash silica gel column chromatography. The fraction obtained from an elution with hexane:ethyl acetate=2:3 was concentrated. The resulting solid was recrystallized from 2-propanol to obtain the title compound (138 mg, 0.273 mmol, 60%) as a white solid.

reactant | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
reactant | 5-[(1-benzofuran-6-ylsulfonyl)(2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide | 0.457 mmol, 210 mg | O1C=CC2=C1C=C(C=C2)S(=O)(=O)C(C=2C(=CC(=NC2)C(=O)N)C)C2=C(C(=CC=C2F)F)F | C22H15F3N2O4S
reactant | formaldehyde | 0.111 ml | C=O | CH2O
reactant | sodium hydroxide | 1 N, 0.023 ml | [OH-].[Na+]
reactant | formaldehyde | 0.111 ml | C=O | CH2O
reactant | sodium hydroxide | 1 N, 0.023 ml | [OH-].[Na+]
reactant | formaldehyde | 0.111 ml | C=O | CH2O
solvent | Water | O | H2O
product | 5-[(1-Benzofuran-6-ylsulfonyl)(2,3,6-trifluorophenyl)methyl]-N-(hydroxymethyl)-4-methylpyridine-2-carboxamide | 0.273 mmol, 138 mg, 60% | O1C=CC2=C1C=C(C=C2)S(=O)(=O)C(C=2C(=CC(=NC2)C(=O)NCO)C)C2=C(C(=CC=C2F)F)F | C23H17F3N2O5S
